US05084549
4-(4-trifluoromethylbenzoyloxy)-benzoic acid-4-(4-trifluoromethylbenzoyloxy)-phenyl ester is prepared as in Example 6 from 4-hydroxyphenyl-4-hydroxybenzoate and 4-trifluoromethylbenzoyl chloride. Yield: 12.9 g (80% of the theoretical). A liquid crystalline phase was observed under a polarization microscope in the temperature range from 180° to 340° C.

reactant | 4-hydroxyphenyl-4-hydroxybenzoate | OC1=CC=C(C=C1)C1=C(C(=O)[O-])C=CC(=C1)O
reactant | 4-trifluoromethylbenzoyl chloride | FC(C1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O
product | 4-(4-trifluoromethylbenzoyloxy)-benzoic acid-4-(4-trifluoromethylbenzoyloxy)-phenyl ester | FC(C1=CC=C(C(=O)OC2=CC=C(C=C2)OC(C2=CC=C(C=C2)OC(C2=CC=C(C=C2)C(F)(F)F)=O)=O)C=C1)(F)F | C29H16F6O6
